Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right leg pain
 
Major Surgical or Invasive Procedure:
Open reduction internal fixation of right knee 

 
History of Present Illness:
Ms. ___ is a lovely ___ with past history of endometrial 
cancer, as well as recent acute onset pain in her knee which has 
been worked up by orthopedics to some extent. This workup has 
revealed a likely bony lesion in her femur, and also new nodules 
in her lungs which are concerning for malignancy. The patient 
presented to our emergency department this morning with sudden 
onset chest pain since 3 AM today. She describes the pain as a 
mild, dull pain in her chest which does not radiate to her arm 
or up her jaw; it is somewhat worse when she takes a deep 
breath. She had some shortness of breath associated with the 
pain and also felt like her heart was racing. She also noted 
some sweating with the pain. She has never had pain like this 
before. 
.
In the ED, her VS were 97.9 114 159/79 22 100% RA. Labs were 
notable for WBC 17.5 (82% PMNs), HCT 35.7, PLT 492. She also had 
a slightly increased AG of 16 with bicarb of 22. A first set of 
troponins was negative. Lactate was 3.0 and the pt was 
hyperglycemic to 238. UA positive for protein, ketones, and 
glucose. A CXR showed no acute intrapulmonary process. Wet read 
of ___ ultrasound showed no DVT. CTA showed no PE but did show 
nodules and lymph nodes suspicious for malignancy. The patient 
was admitted to medicine for pain control and further 
evaluation.
.
Upon transfer to the floor, VS were 99.2 160/88 105 22 100% RA. 
The pt was uncomfortable and in a lot of pain but interactive 
and appropriate. She reports that her chest pain has largely 
resolved, though she continues to have some dyspnea and 
sweating. Her leg pain is excruciating, ___ in severity, and 
she is unable to walk or move the leg at all. Her leg pain has 
been gradually increasing over the past ___ wks, and she notes a 
fist-size hard lump on her R distal thigh. The pain is worst 
over the R medial aspect of her knee. She has been taking 
ibuprofen and oxycodone 15mg Q4H with minimal relief. Her last 
BM was 10d ago.
. 
ROS: She endorses appetite loss, night sweats, and weight loss 
of roughly 5lbs over the past several weeks. She denies HA, 
visual changes, numbness, weakness, tingling, rhinorrhea, 
congestion, sore throat, cough, sputum, nausea, vomiting, 
diarrhea, dysuria, other joint pain, and rashes.
 
Past Medical History:
-Endometrial cancer, s/p hysterectomy ___, followed by Dr. 
___ at ___
-HTN on lisinopril
-Hypercholesterolemia on simvastatin
-DM on metformin and glypizide 
-Back surgery on L5/S1 in ___
 
Social History:
___
Family History:
The patient's father died from cancer (type unknown). She has no 
family history of clotting disorders or heart disease.
 
Physical Exam:
ON ADMISSION:
VS: 99.2 160/88 105 22 100% RA 
GENERAL: Fair-appearing overweight black woman in NAD, 
uncomfortable, interactive and appropriate.   
HEENT: NC/AT, sclerae anicteric, MMM, OP clear, darkened 
pigmented skin in mandibular distribution of face, no LAD; 
velvety pigmented skin under chin.  
Chest: Slightly tachy, regular rhythm, normal S1, S2 no murmurs, 
rubs or gallops.
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored. 
 
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding.  
EXTREMITIES: WWP, no c/c/e, 5x4cm firm, circumscribed mass 
palpated in R anterior thigh just proximal to knee joint  
Spine: No spinal or paraspinal tenderness or spasm appreciated  
SKIN: Areas of dark pigmentation on face and under chin, no 
other rashes or lesions, no petechiae.  
NEURO: Awake, alert and appropriate, CNs II-XII grossly intact, 
moving all extremities, grossly nonfocal.
.
ON DISCHARGE:
VITALS: Tmax 99 BP 120/60 (SBPs 120-150) HR 86 RR 16 O2 Sat 98% 
RA
GENERAL: NAD, comfortable
HEENT: Pinpoint pupils, EOMI, MMM.   
CV: RRR, normal S1/S2, no M/R/G
LUNGS: CTAB, no wheezing/rales/rhonchi
ABDOMEN: Bowel sounds present, soft, NT/ND
EXT: warm, well-perfused with 2+ peripheral pulses. No pitting 
edema of the LLE and RLE.
NEURO: CN: ___ grossly intact. STRENGTH: ___ through the upper 
and lower extremities bilaterally. SENSATION: to light touch 
grossly intact throughout the upper and lower extremities.  

 
Pertinent Results:
ADMISSION LABS:
___ 07:44AM BLOOD WBC-17.5* RBC-4.96 Hgb-12.9 Hct-35.7* 
MCV-72* MCH-26.1* MCHC-36.2* RDW-13.4 Plt ___
___ 07:44AM BLOOD Neuts-81.5* Lymphs-15.0* Monos-3.0 
Eos-0.2 Baso-0.2
___ 07:44AM BLOOD Glucose-246* UreaN-20 Creat-1.0 Na-136 
K-4.9 Cl-98 HCO3-22 AnGap-21*
___ 07:44AM BLOOD CK(CPK)-150
___ 07:44AM BLOOD CK-MB-65* MB Indx-43.3* proBNP-15
___ 07:44AM BLOOD cTropnT-<0.01
___ 07:20PM BLOOD CK-MB-55* MB Indx-38.7* cTropnT-<0.01
___ 07:44AM BLOOD HCG-<5
___ 07:47AM BLOOD Glucose-238* Lactate-3.0* K-4.6
___ 09:40AM URINE Color-Yellow Appear-Hazy Sp ___
___ 09:40AM URINE Blood-TR Nitrite-NEG Protein-100 
Glucose-100 Ketone-40 Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 09:40AM URINE RBC-1 WBC-7* Bacteri-FEW Yeast-NONE 
Epi-23
___ 09:40AM URINE CastHy-47*
___ 09:40AM URINE Mucous-MOD
___ 09:40AM URINE UCG-NEGATIVE
.
DISCHARGE LABS:
___ 06:20AM BLOOD WBC-25.2* RBC-4.36 Hgb-11.3* Hct-32.7* 
MCV-75* MCH-25.8* MCHC-34.5 RDW-17.4* Plt ___
___ 06:20AM BLOOD Glucose-80 UreaN-4* Creat-0.6 Na-139 
K-3.7 Cl-101 HCO3-26 AnGap-16
___ 06:20AM BLOOD Calcium-9.8 Phos-3.4 Mg-1.7
.
OTHER LABS:
___ 09:07PM BLOOD %HbA1c-8.5* eAG-197*
___ 07:40AM BLOOD PTH-8*
___ 06:10AM BLOOD CEA-2.6 AFP-3.1 CA125-10
___ 07:40AM BLOOD PARATHYROID HORMONE RELATED PROTEIN-Test  
    
___ 06:05AM BLOOD VITAMIN D 25 HYDROXY-Test      
___ 06:10AM BLOOD CA ___ -Test      
.
MICROBIOLOGY: 
Urine culture: E. coli pan-sensitive
.
CXR: IMPRESSION: No acute pulmonary process.
.
CTA: IMPRESSION:
1) No evidence of pulmonary embolism, aortic aneurysm or 
dissection.
2) Lung nodules suspicious for malignancy. Significant bilateral 
hilar
lymphadenopathy also suspect. If not already followed, recommend 
referring
patient for appropriate consultation.
.
R ___: IMPRESSION: No evidence of DVT.
.
R KNEE and FEMUR XRAY: FINDINGS: In comparison with the study of 
___, there is little overallchange. Though there is some patchy 
osteopenia especially distally, this again is nonspecific, 
though it could be related to osseous metastasis. This region is 
distinct from the focal area of signal abnormalities seen in the 
distal femur anteriorly on the outside MRI (not definitely 
appreciated on this study).
.
R THIGH MRI: 
1. Diffuse infiltrative heterogeneous-appearing mass 
incompletely seen 
involving the diaphysis of the mid to distal femur with a large 
extraosseous soft tissue component deep to the vastus 
musculature with likely involvement of the vastus intermedius 
muscle and edematous changes in the remaining vastus 
musculature. Findings in the femur are detailed above highly 
concerning for metastatic disease given history of endometrial 
cancer versus less likely, but still possible, a primary 
malignant osseous neoplasm or lymphoma given permeative 
appearance on radiographs from ___. There is concern for 
intraarticular extension into the knee joint space 
anteromedially with 
disruption of cortex signal with also possible neoplastic 
involvement in the posterolateral knee joint space, detailed 
above. These findings have 
progressed in comparison to recent prior outside knee MRI from 
___. 
2. Moderate knee joint effusion. 
3. Fatty atrophy of the posterior and posteromedial compartment 
thigh 
musculature. 
4. Multifocal osseous involvement of the medial and lateral 
femoral condyles, likely also representing osseous metastatic 
disease. 
.
CT-GUIDED R THIGH BIOPSY:
IMPRESSION: Successful CT-guided biopsy of right femur mass and 
corresponding large anterior soft tissue component, as described 
above. The core biopsy specimens were sent to pathology and the 
cytology and RPMI specimen were also carried to cytology and 
pathology laboratory as separate specimens 
.
CT ABDOMEN/PELVIS: ___
1. Multiple ill-defined hypoenhancing areas in both kidneys are, 
given the history of malignancy, concerning for renal 
metastases. 
2. Subcentimeter pulmonary nodules in both lower lobes as 
described. 
3. Left adnexal structure as described. This may be better 
characterized 
with ultrasound to confirm or exclude ovarian tissue. 
4. Right adrenal nodule. 
.
TIB/FIB (AP AND LAT) RIGHT:
No oblique view or localizing history is available. Allowing for 
this, no 
lytic or sclerotic lesion is detected in the right lower leg. AP 
view shows some bony prominence along the lateral aspect of the 
proximal tibial metadiaphysis, difficult to evaluate on this 
view. There is no corresponding finding on knee radiographs 
dated ___ and therefore this is likely artifactual. If this 
orresponds t the area of clinical interest, then further 
assessment with AP, oblique, and lateral radiographs of the knee 
would be recommended. At the edge of these films, a known area 
of lucency in the distal femur is suggested. 
.
PORTABLE CHEST X-RAY:
Fullness in the right paratracheal area is unchanged over 
previous 
examinations and was shown to be due to benign fat deposition on 
chest CTA ___, however the left hilar mass is still 
present. Lungs are clear and there is no pleural effusion. Heart 
size normal. 
.
VENOUS DUP EXT BILATERAL:
RIGHT LOWER EXTREMITY ULTRASOUND: Multiple prominent right 
inguinal lymph 
nodes are present, the largest measuring 9 mm with diffusely 
abnormal 
echogenicity. There is normal compressibility, flow, and 
augmentation in the bilateral common femoral and right 
superficial and deep femoral, greater saphenous, and popliteal 
veins. Calf veins were not well visualized. Diffuse subcutaneous 
edema is present. 
IMPRESSION: 
1. No right lower extremity DVT above the knee. 
2. Diffuse subcutaneous edema.
.
RIGHT LOWER EXTREMITY ULTRASOUND: 
Grayscale and Doppler sonogram of the right common femoral, 
right superficial femoral and right popliteal veins showed 
normal compressibility, flow and augmentation. Calf veins are 
not well visualized on this study. Extensive subcutaneous edema 
is noted diffusely; however, there is more focal illdefined 
area of fluid ranging over approximately 3 cm extending along 
the anterior aspect of the femur within the right mid-lower 
thigh region. Multiple inguinal lymph nodes are noted within the 
right groin, the largest measures 3.1 x 0.7 cm. 
IMPRESSION: 
1. No evidence of DVT in right common femoral, superficial 
femoral and 
popliteal veins. Calf veins could not be visualized on today's 
study. 
2. Diffuse subcutaneous edema, however, there is more focal 
ill-defined area of fluid ranging over approximately 3 cm 
extending along the anterior aspect of the femur within the 
right mid-lower thigh region.  

 

 
Brief Hospital Course:
___ with a history of Grade IA endometrial cancer status post 
hysterectomy in ___ presents with worsening R leg pain with 
radiographic evidence of bony lesion and possible metastasis to 
lung.  
.
#Chest pain/dyspnea: The patient initially presented to with 
sudden onset chest pain that may have had a pleuritic component 
and was associated with dyspnea and diaphoresis. Given her 
history of endometrial cancer and likely recurrence of 
malignancy, her unilateral leg pain and swelling, and the sudden 
onset pleuritic nature of her pain, pulmonary embolism was 
considered, but ruled out by normal CTA. Lower extremity 
ultrasound showed no deep vein thrombosis on the right leg. 
Myocardial infarction was ruled out. Other etiologies considered 
included anxiety due to leg pain and metastasis to bones in the 
chest (though this is unlikely to present with sudden-onset 
pain). Her chest pain and dyspnea improved as her pain 
controlled was optimized.
.
# Constipation: On admission the patient reported that she had 
not had a bowel movement in over ten days, likely secondary to 
opioid pain management. She was maintained on an aggressive 
bowel regimen while in ___.
.
# Right femur lesion: Patient was found to have a mass in her 
right femur. Orthopaedics was consulted, and the decision was 
made to take the patient to the operating room for an open 
reduction, internal fixation of the right femur. The anterior 
cortex was noted to be breeched. Pathology was sent which showed 
high-grade carcionoma. This area caused the patient to have 
significant pain. Radiation oncology as consulted to help with 
pain management. The patient received a total of 5 radiation 
treatments for a total of ___ Gy. Palliative care was also 
consulted to help with pain control. The patient was 
transitioned from a dilaudid PCA to methadone 10mg three times 
daily and oral dilaudid for control of the patient's pain. She 
was continued on Lovenox 40mg sub-cutaneously after surgery for 
DVT prophylaxis. 
.
# Pain Control: Pain control was an active issue though this 
hospitalization. The patient was initially started on oxycontin 
twice daily dosing with the dosing increased according to the 
patient's PRN use oxycodone. The patient was eventually 
transitioned to a dialudid PCA for beakthrough pain. Palliative 
care was consulted to help manage the patient's pain control. 
Per Palliative care recs, the patient was started methadone 5mg 
three times daily. The patient's initial dose was reduced in the 
setting of fluconazole which can increase the dose of methadone 
given that it inhibits the ___ system. Lidocaine patches were 
started ___. With stabilization of the patient's pain on 5mg of 
methadone three times daily, the patient was transitioned from a 
dialudid PCA to oral dialudid as needed for breakthrough pain 
___. The patient's methadone was increased to 10mg three 
times daily after completion of a full course of fluconazole on 
___. EKG after this dose adjustment showed a QTc that was 
within normal limits. The patient is being discharged on a 
stable pain regimen as follows: methadone 10mg three times daily 
and dilaudid by mouth ___ every 2 hours for breakthrough pain. 
 
.
#Viral upper respiratory tract infection: Through the admission, 
the patient acutely developed hoarseness. She was given cepachol 
lozenges as needed for comfort. The patient's symptoms resolved. 

.
#Leukocytosis: Throughout the patient's admission, she had a 
leukocytosis. Intially, this was attributed to an E. coli 
urinary tract infection. The leukocytosis was also thought to 
represent a stress reaction given the patient's surgery and pain 
secondary to the surgery and bone leision. The patient received 
a dose of dexamethasone with chemotherapy that was administered 
on ___. The patient's white blood cell count trended downward, 
but remained high on day of discharge.
.
# Anemia: Patient was hemodynamically stable through the 
admission, though hematocrit fell (most likely due to dose of 
carboplatin received ___. The patient received 2 units of 
pRBCs during the admission. Her hematocrit remained stable after 
tranfusion.  
.
# Cancer of unknown primary: Pathology shows a poorly 
differentiated carcinoma, though no clear source, possible from 
prior endometrial CA. Patient received 1 dose of carboplatin 
___ and tolerated the infusion without symptoms of nausea and 
vomiting. The patient will need to follow-up with Dr. ___ 
in clinic as an outpatient. 
.
# Oral ___: The patient developed extensive thrush that 
involved her posterior oropharynx. The patient also complained 
of odynophagia, dysphagia, and hoarseness. ENT scoped the 
patient and did not see involvement of the patient's vocal cords 
with thrush. GI was also consulted and did not feel that EGD 
would be necessary as this would not change the management of 
the patient. She was started on a 14 day course of fluconazole 
for oral thrush and presumed candidal esophagitis given her 
history of odynophagia. The patient was also on Nystatin swish 
and swallow four-times-daily. ___ improved through her 
hospital course. On day of discharge, there was no thrush 
appreciated in the oropharyxn, and the patient had no complaints 
of odynophagia.  
.
# Hypercalcemia of malignancy: The patieint initially presented 
with an elevated calcium. she was given pamidronate on ___ 
and treated with IV fluids. The patient's calcium improved. On 
day of discharge, the patient's calcium was 9.8.
.
# E. coli UTI: Curing the hospitalization, the patinet developed 
a urinary tract infection. The patient completed ciprofloxacin 
course. Repeat urine culture showed <10,000 organisms/mL. 
Patient had a Foley in place during much of her admission 
secondary to difficulty moving and her sacral decubitus ulcer. 
On day of discharge, the patient had been without a Foley 
catheter for 2 days. 
.
# Facial Pains: Through the admission, the patient developed 
facial pain that she described as burning, episodic pains 
triggered by stress. These episodes lasts for approxmiately 30 
seconds and then resolve. The patient was started on gabapentin 
600mg PO daily for these facial pains. On day of discharge, the 
patient denied having any of these facial pains. 
.
#DM: The patient's home metformin and glipizide were 
discontinued during this admission. She was started on an 
insulin sliding scale. finger stick blood glucose measurements 
were monitored through the admission. The patient was 
transitioned to glargine and as insulin sliding scale. On day of 
discharge, the patinet's fingerstick blood glucose measurements 
ranged from 97-206 She is being discharged to rehab on 14 units 
of glargine insulin in the morning and a regular insulin sliding 
scale.  
.
#HTN: Patient was admitted with a known history of hypertension. 
The patient's blood pressure medications required titration. 
During the admission, her lisinopril was increased to 40mg 
daily, and the patient was started on chlorthalodone. Despite 
this blood pressure regimen, the patient would have episodes of 
systolic blood pressures in the 180s (the patient was 
asymptomatic during these episodes) for which she recieved IV 
hydralazine. However, as the patient's pain became better 
controlled, the patient had systolic blood pressures as low as 
the ___. The patient was bolused and her blood pressure 
medication was discontinued. The patient's blood pressures were 
elevated in the 130-150s after stopping her regimen. She was 
restarted on lisinopril 40mg daily and chlorthaladone 12.5mg 
daily. 
.
#Sacral ulcer: Patient developed a stage 3 pressure ulcer during 
the hospitalization. Wound care was consulted. 
.
#Transition of care issues:
-Continued care of the patient's stage 3 decubitus pressure 
ulcers.
-Continued monitoring of the patient's blood pressure as well as 
adjustment of the patient's blood pressure medication regimen.
-Titration of the patient's insulin regimen (long-acting 
glargine and short-active humalog) according to finger-stick 
blood glucose measurements.  
-The patient will need staples removed from her surgical site on 
post-op day 14 ___ per orthopaedic recommendations. Please 
place steri strips over the incision site. 
-Follow-up with Dr. ___ primary oncologist on 
___.
-follow-up with orthopaedic surgery on ___ with 
x-rays to be taken prior to the appointment.  
-Continued work with physical therapy and occupational therapy. 
-Patient will continue vitamin supplementation until ___. 
She will continue taking daily vitamin.
-The patient is due to have her next dose of chemotherapy 
___ on an outpatient basis. She will receive both 
carboplatin and Taxol during this chemotherapy session. 
 
Medications on Admission:
Metformin 1000mg PO BID
Glipizide (dose unknown)
Lisinopril 20mg PO daily
Simvastatin 40mg daily
Oxycodone 15mg PO Q4H
Percocet (dose unknown)
 
Discharge Medications:
1. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1) 
dose PO DAILY (Daily).  
4. enoxaparin 40 mg/0.4 mL Syringe Sig: One (1) injection 
Subcutaneous QHS (once a day (at bedtime)).  
5. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
___ Adhesive Patch, Medicateds Topical DAILY (Daily): Apply to 
area around the right knee for improved pain control. 12 hr 
on/12 hr off 
.  
6. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. gabapentin 300 mg Capsule Sig: Two (2) Capsule PO HS (at 
bedtime).  
8. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).  
9. hydromorphone 4 mg Tablet Sig: ___ Tablets PO Q2H (every 2 
hours) as needed for pain: Hold for sedation and RR < 12.  
10. methadone 10 mg Tablet Sig: One (1) Tablet PO Q 8H (Every 8 
Hours): Hold for RR < 12 or sedation (not arrousable).  
11. lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily): Hold if SBP < 100.  
12. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: ___ Tablet, Chewables PO QID (4 times a day) as needed for 
indigestion/reflux.  
13. acetaminophen 500 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours).  
14. vitamin A 10,000 unit Capsule Sig: One (1) Capsule PO DAILY 
(Daily) for 1 days: Until ___.  
15. zinc sulfate 220 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily) for 1 days: Until ___.  
16. ascorbic acid ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) for 1 days: Until ___.  
17. chlorthalidone 25 mg Tablet Sig: 0.5 Tablet PO DAILY 
(Daily): Hold for SBP < 100.  
18. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO TID (3 
times a day): Patient may refuse.  
19. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
constipation.  
20. insulin glargine 100 unit/mL Solution Sig: Fourteen (14) 
units Subcutaneous once a day.  
21. insulin regular human 100 unit/mL Solution Sig: per insulin 
sliding scale unnits Injection qACHS: According to printed 
insulin sliding scale provided with discharge paperwork.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Carcinoma of unknown primary 

Secondary Diagnosis:
Hypertension
Diabetes Mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of your during your 
hospitalization at ___.

During this admission, you were found to have a mass in your 
right femur bone that was concerning for cancer. You underwent 
imaging tests and had biopsies done that returned highly 
suggestive of cancer. The Orthopaedics team took you to the 
operating room for a procedure to help with pain reduction in 
the right knee. Radiation oncology also saw you through the 
admission and gave you 5 treatments of radiation therapy to the 
right knee to help with pain control.

Pain control was an on-going issue for you during this 
admission. We have adjusted your pain medication regimen so that 
you are now taking 10mg of methadone three times daily with oral 
dilaudid for breakthrough pain. Lidocaine patches as well as 
scheduled acetaminophen and ibuprofen were started during this 
admission to help with pain control.

During this admission, you also received one (1) dose of 
chemotherapy known as carboplatin. You tolerated the 
chemotherapy well with no side effects of nausea or vomitting. 

Your blood pressure medication regimen was modified during this 
admission. Your oral diabetes medications were discontnued 
during this admission, and you have been transtitioned to 
insulin for control of your blood sugars.

Please take all medications as prescribed. 

Please keep all follow-up appointments as scheduled. Your 
up-coming follow-up appointments are listed below. 
 
Followup Instructions:
___